US08334286B2
1-Cyanomethyl-5-oxo-pyrrolidine-2-carboxylic acid methyl ester
To a solution of 5-oxo-pyrrolidine-2-carboxylic acid methyl ester (3 g, 21 mmol) in CH3CN (60 ml), 60% NaH (863 mg, 22 mmol) was added at 0° C. After stirring for 30 minutes, a solution of 2-bromoacetonitrile (2.59 g, 21 mmol) in CH3CN (10 ml) was added dropwise. After warming at room temperature, and stirring for 20 hours, the solvent was evaporated under reduced pressure. The residue was partitioned between water and ethyl acetate, the organic layer was washed with brine, dried (Na2SO4) and evaporated. The residue was purified by flash chromatography (from DCM to DCM/MeOH 95/5 respectively) to afford the title compound as a pale yellow oil (1.1 g, 29% yield).

reactant | 5-oxo-pyrrolidine-2-carboxylic acid methyl ester | 21 mmol, 3 g | COC(=O)C1NC(CC1)=O | C6H9NO3
reactant | NaH | 22 mmol, 863 mg | [H-].[Na+]
reactant | 2-bromoacetonitrile | 21 mmol, 2.59 g | BrCC#N | C2H2BrN
solvent | CH3CN | 60 ml | CC#N | C2H3N
solvent | CH3CN | 10 ml | CC#N | C2H3N
product | 1-Cyanomethyl-5-oxo-pyrrolidine-2-carboxylic acid methyl ester | 1.1 g, 29% yield | COC(=O)C1N(C(CC1)=O)CC#N | C8H10N2O3
